US06211212B1
a) D-Phenylglycine methyl ester hydrochloride
Acetyl chloride (4 ml) was added cautiously and dropwise to methanol (20 ml) at 0° C. over 2 minutes. When the addition was completed, D-phenylglycine (1 g, 5.9 mmol, Aldrich) was introduced in a single portion. The mixture was stirred until dissolved then allowed to stand at RT for 24 hours. The solvent was evaporated then coevaporated twice from toluene to afford the title compound as a white crystalline solid in quantitative yield. The title compound was obtained as a white crystalline solid in quantitative yield with an identical n.m.r. spectrum to the L-isomer.

reactant | Acetyl chloride | 4 ml | C(C)(=O)Cl | C2H3ClO
reactant | D-phenylglycine | 5.9 mmol, 1 g | C1=CC=C(C=C1)[C@H](C(=O)O)N | C8H9NO2
solvent | methanol | 20 ml | CO | CH4O
product | D-Phenylglycine methyl ester hydrochloride | quantitative yield | COC(=O)[C@H](C1=CC=CC=C1)N.Cl | InChI=1S/C9H11NO2.ClH/c1-12-9(11)8(10)7-5-3-2-4-6-7;/h2-6,8H,10H2,1H3;1H/t8-;/m0./s1
